US04281000
2-Methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 3.50 g. of 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one, 25 L ml. of glacial acetic acid and 2.44 g. of 3-amino-5-methylpyrazole-4-carbonitrile is refluxed 6 hours. The solvent is removed in vacuo. The residue is dissolved in dichloromethane and the solution washed with saturated sodium bicarbonate solution. The dichloromethane layer is dried over anhydrous sodium sulfate and pased through a column of hydrous magnesium silicate. The eluent is concentrated and hexane added to give 2.60 g. of the product of the example, m.p. 245°-246° C.

reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
reactant | 3-amino-5-methylpyrazole-4-carbonitrile | NC1=NNC(=C1C#N)C | C5H6N4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | CC1=NN2C(N=CC=C2C=2C=NC=CC2)=C1C#N | C13H9N5
